US08426420B2
i) 4-{2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 3.5 g 4-{2-[(5-Hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester in 23 ml DMF were added 1.87 g benzyl bromoacetate and 5.31 g cesium carbonate. After stirring at room temperature for 12 h the solution was diluted with 100 ml ethyl acetate and extracted with aqueous LiCl (4 w/w), 0.1 M HCl and aqueous NaHCO3. The crude product obtained after evaporation of the solvent was pure enough for the following reactions. Yield: 3.6 g

reactant | 4-{2-[(5-Hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 3.5 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1)=O | C21H27N5O5
reactant | benzyl bromoacetate | 1.87 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 5.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C30H35N5O7
